US05686564
Thionyl chloride (1.03 ml) is added to 4-pyridinehexanol hydrochloride (2.42 g) and the mixture is stirred at 20° C. for 30 minutes. Excess saturated aqueous NaHCOs and CHCl3 (20 ml) is added. The organic phase is washed with saturated NaHCO3, brine and water, dried (MgSO4) and the solvent evaporated to give crude material which is purified by flash chromatography on silica gel (CH3OH:CHCl3 =1:49 by vol.) to give 4-(6-chlorohexyl)-pyridine as an oil.

reactant | Thionyl chloride | 1.03 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 4-pyridinehexanol hydrochloride | 2.42 g | Cl.N1=CC=C(C=C1)CCCCCCO
solvent | CHCl3 | 20 ml | C(Cl)(Cl)Cl | CHCl3
product | 4-(6-chlorohexyl)-pyridine | ClCCCCCCC1=CC=NC=C1 | C11H16ClN
